US07674741B2
2-Phenyl-2-methoxymethyl-γ-butyrolactone
Butyl lithium (62.5 mL of 1.6M solution in hexanes) was treated dropwise with a solution of diisopropylamine (14.0 mL) in THF (200 mL) at −20° C. and the resulted mixture was stirred for additional 30 min at the same temperature. After that the mixture was cooled to −90° C., treated dropwise with a solution of 2-phenyl-γ-butyrolactone (11.0 g) in THF (50 mL) and then stirred for 45 min at the same temperature. Next the reaction mixture was treated dropwise with a solution of chloromethyl methyl ether (8.05 g) in THF (50 mL), stirred for additional 10 min, then allowed to slowly warm-up to room temperature and stirred at this temperature for 16 h. Subsequently the reaction mixture was quenched by pouring onto a mixture of ice and 10% aqueous phosphoric acid. The formed organic phase was separated and the aqueous phase was extracted with chloroform. The combined organic phases were washed with saturated aqueous solution of potassium bicarbonate, then water, dried over magnesium sulfate, filtered, concentrated on a rotary evaporator and distilled in vacuum to give 11.5 g (82%) of the title compound.

reactant | Butyl lithium | 1.6M, 62.5 mL | C(CCC)[Li]
reactant | diisopropylamine | 14.0 mL | C(C)(C)NC(C)C | C6H15N
reactant | 2-phenyl-γ-butyrolactone | 11.0 g | C1(=CC=CC=C1)C1C(=O)OCC1 | C10H10O2
reactant | chloromethyl methyl ether | 8.05 g | COCCl | C2H5ClO
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-Phenyl-2-methoxymethyl-γ-butyrolactone | 11.5 g, 82% | C1(=CC=CC=C1)C1(C(=O)OCC1)COC | C12H14O3
